US07618975B2
Ethyl 4-(N-(4-Methoxy-phenyl)-N-methylamino)quinazoline-2-carboxylate
The title compound was prepared from ethyl 4-chloroquinazoline-2-carboxylate and (4-methoxy-phenyl)-methylamine by using the procedure described for example 1b. 1H NMR (CDCl3): 7.98-8.02 (m, 1H), 7.61 (ddd, J=1H, 8.1, 6.9, 1.5), 7.08-7.17 (m, 3H), 7.01-7.05 (m, 1H), 6.91-6.96 (m, 2H), 4.56 (q, J=2H, 7.2), 3.84 (s, 3H), 3.71 (s, 3H), 1.50 (t, J=2H, 7.2).

reactant | ethyl 4-chloroquinazoline-2-carboxylate | ClC1=NC(=NC2=CC=CC=C12)C(=O)OCC | C11H9ClN2O2
reactant | (4-methoxy-phenyl)-methylamine | COC1=CC=C(C=C1)NC | C8H11NO
product | Ethyl 4-(N-(4-Methoxy-phenyl)-N-methylamino)quinazoline-2-carboxylate | COC1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C(=O)OCC | C19H19N3O3
